US09062048B2
Step B: 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxamide
A methanolic solution of ethyl 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxylate (53 g, 131 mmol) from above step A, was cooled in an ice bath and saturated with ammonia by bubbling in ammonia. The flask was capped and stirred at room temp for 20 h. The white precipitate that formed was collected by filtration and washed with a small amount of MeOH and dried under vacuum to give the title compound.

reactant | ethyl 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxylate | 131 mmol, 53 g | COC1=CC=C(COC2=CC(=NC3=CC=C(C=C23)C(F)(F)F)C(=O)OCC)C=C1 | C21H18F3NO4
reactant | ammonia | N | H3N
product | 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxamide | COC1=CC=C(COC2=CC(=NC3=CC=C(C=C23)C(F)(F)F)C(=O)N)C=C1 | C19H15F3N2O3
